US04273779
3 g of 5-cinnamylamino pyridine-2-carboxylic acid are dissolved in 50 ml of 0.5 N aqueous sodium hydroxide containing 1 ml of ethanol and the solution is hydrogenated over 0.5 g of 10% palladium on charcoal at atmospheric pressure and room temperature. After the hydrogen uptake has ceased, the mixture is filtered and the filtrate acidified with hydrochloric acid. The solution is extracted with ethyl acetate, the extract washed with water, dried, evaporated and the residue crystallized from methanol, to yield the 5-(3-phenylpropylamino)-pyridine-2-carboxylic acid melting at 167°-169°.

reactant | 5-cinnamylamino pyridine-2-carboxylic acid | 3 g | C(C=CC1=CC=CC=C1)NC=1C=CC(=NC1)C(=O)O | C15H14N2O2
reactant | hydrogen | [H][H] | H2
solvent | sodium hydroxide | 0.5 N, 50 ml | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | 5-(3-phenylpropylamino)-pyridine-2-carboxylic acid | C1(=CC=CC=C1)CCCNC=1C=CC(=NC1)C(=O)O | C15H16N2O2
